US07572809B2
Similar procedure as described in example 330 was used, starting (1-Chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and ethenylboronic acid pinacol ester to give (1-Ethyl-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 283(MH+).

reactant | (1-Chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | ethenylboronic acid pinacol ester | C(=C)B1OC(C)(C)C(C)(C)O1 | C8H15BO2
product | (1-Ethyl-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)C1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C16H18N4O
